US06713650B2
To a stirred solution of 4-fluorothiophenol (0.13 mL, 1.2 mmol) in tetrahydrofuran (4 ml) was added aqueous 15% sodium hydroxide. 2-Chloro-N-cyclohexyl-N-phenylacetamide (320 mg, 1.3 mmol) was added, and the solution was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure, and the residue purified on a preparatory plate using 20% ethyl acetate/hexanes to furnish 2-(4-fluorophenylthio)-N-cyclohexyl-N-phenylacetamide as a white solid. (M+1)=343.9

reactant | 4-fluorothiophenol | 1.2 mmol, 0.13 mL | FC1=CC=C(C=C1)S | C6H5FS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-Chloro-N-cyclohexyl-N-phenylacetamide | 1.3 mmol, 320 mg | ClCC(=O)N(C1=CC=CC=C1)C1CCCCC1 | C14H18ClNO
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorophenylthio)-N-cyclohexyl-N-phenylacetamide | FC1=CC=C(C=C1)SCC(=O)N(C1=CC=CC=C1)C1CCCCC1 | C20H22FNOS
